US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-phenyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (181 mg, 0.602 mmol) was combined with 3-(6-amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (200 mg, 0.602 mmol), which gave 3-[6-(6-dimethylcarbamoyl-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (320 mg, 0.536 mmol) in 86% yield.

reactant | 2-chloro-7-phenyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.602 mmol, 181 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1=CC=CC=C1)C | C15H13ClN4O
reactant | 3-(6-amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.602 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)N | C17H24N4O3
product | 3-[6-(6-dimethylcarbamoyl-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.536 mmol, 320 mg, 86% yield | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1=CC=CC=C1 | C32H36N8O4
